data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2624,2911,[CH3:16][NH:17][C:18](=[O:19])[C:20](=[NH+:21][C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[C:35]([CH3:36])=[O:37].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[NH:21][C:20]3([C:18]([NH:17][CH3:16])=[O:19])[C:35]([CH3:36])=[O:37],water,298.15,28.07976984617309,-26.48024844302248
1263,1381,[CH3:16][C:17](=[O:18])[CH-:19][O+:20]=[C:21]([CH3:22])[CH3:23].[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]#[C:8][C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]#[N:6])[C:7]2=[C:8]([C:9]([Cl:10])([Cl:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:19]([C:17]([CH3:16])=[O:18])[O:20][C:21]2([CH3:22])[CH3:23],water,298.15,22.048568210729155,-58.00266643441138
1122,1220,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][O+:18]=[C:19]([CH3:20])[C:21](=[O:22])[NH:23][CH3:24].[CH3:1][C:2](=[O:3])[C:4]([CH3:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][C:2](=[O:3])[C:4]1([CH3:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[O:18][C:19]1([CH3:20])[C:21](=[O:22])[NH:23][CH3:24],water,298.15,11.903307051877274,-47.101406368715146
4759,5434,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25],water,298.15,13.989258656013362,-25.0292688320786
5229,5932,[CH3:10][O:11][C:12](=[O:13])[C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:23]([C:24]([CH3:25])=[O:26])([c:27]2[cH:28][cH:29][cH:30][cH:31][cH:32]2)[N:21]([CH3:22])[C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,32.93697692356628,-8.35139884575456
4204,4809,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:11]([CH3:10])=[O:12])([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[N:14]=[C:15]1[C:16]#[N:17],water,298.15,17.011197086961648,-37.62995802629205
2915,3243,[CH2:1]=[CH2:2].[CH3:3][C:4]([CH3:5])=[N+:6]([CH3:7])[C-:8]([CH3:9])[CH3:10]>>[CH2:1]1[CH2:2][C:8]([CH3:9])([CH3:10])[N:6]([CH3:7])[C:4]1([CH3:3])[CH3:5],water,298.15,10.61039780074078,-55.0978921851048
1224,1333,[CH2:12]=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][CH:2]1[C:3]#[C:4][C:5]([F:6])([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][CH:2]1[C:3]2=[C:4]([C:5]([F:6])([F:7])[CH2:8][CH2:9][CH2:10][CH2:11]1)[C:15]([C:16](=[O:17])[NH:18][CH3:19])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:13]([CH3:14])[CH2:12]2,water,298.15,15.815750045018447,-59.00954665233716
1603,1772,[CH3:14][n+:15]1[c:16]([C:17]#[N:18])[o:19][c:20](=[O:21])[c-:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:22]1([c:23]3[cH:24][cH:25][cH:26][cH:27][cH:28]3)[N:15]([CH3:14])[C:16]2([C:17]#[N:18])[O:19][C:20]1=[O:21],water,298.15,29.35006302946873,3.975144989745887
1631,1802,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,25.23335670636715,-13.471269600191464
1228,1337,[CH3:14][C:15](=[O:16])[c:17]1[o:18][c:19](=[O:20])[c-:21]([C:22]([CH3:23])=[O:24])[n+:25]1[CH3:26].[CH:1]1=[CH:2][CH:3]2[O:4][CH:5]1[CH:6]=[C:7]2[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH:1]12[CH:2]([CH:3]3[O:4][CH:5]1[CH:6]=[C:7]3[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[C:21]1([C:22]([CH3:23])=[O:24])[C:19](=[O:20])[O:18][C:17]2([C:15]([CH3:14])=[O:16])[N:25]1[CH3:26],water,298.15,24.73690349800425,-12.630379858102057
